US05495023
A solution of N-(4-ethyl-2,4-hexadien-1-yl)-6-amino-3-pyridinecarboxamide (3.0 g) and methanesulfonyl chloride (1.54 g) in pyridine (25 ml) was stirred at 50° C. for 3 hours. The reaction mixture was evaporated in vacuo and the residue was dissolved in ethyl acetate. The solution was washed with 0.5N hydrochloric acid and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was chromatographed on silica gel (3% methanol-chloroform) to give N-(4-ethyl-2,4-hexadien-1-yl)-6-methansulfonamido-3-pyridinecarboxamide.

reactant | N-(4-ethyl-2,4-hexadien-1-yl)-6-amino-3-pyridinecarboxamide | 3.0 g | C(C)C(C=CCNC(=O)C=1C=NC(=CC1)N)=CC | C14H19N3O
reactant | methanesulfonyl chloride | 1.54 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | N-(4-ethyl-2,4-hexadien-1-yl)-6-methansulfonamido-3-pyridinecarboxamide | C(C)C(C=CCNC(=O)C=1C=NC(=CC1)NS(=O)(=O)C)=CC | C15H21N3O3S
